US06281227B1
A. (2-Oxo-1-prop-2-ynyl-pyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester
The title compound is prepared from (2-oxopyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester as described in EXAMPLE 1, Part H using propargyl bromide in place of 7-bromomethyl-1-chloro-isoquinoline. The crude product is triturated from Et2O/hexanes to give the title compound as a white solid.

reactant | (2-oxopyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NCC1)=O)=O | C9H16N2O3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | (2-Oxo-1-prop-2-ynyl-pyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC#C)=O)=O | C12H18N2O3
